US07910592B2
Sodium hydride (192 mg, 60% dispersion in mineral oil, 4.79 mmol) was added to a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (1.00 g, 3.19 mmol) in dry THF (30 mL) at room temperature under N2. After stirring for 30 min at room temperature, propargyl bromide (80 wt % solution in toluene, 712 μL, 570 mg, 4.17 mmol) was added. The reaction mixture was stirred overnight at room temperature. Saturated NH4Cl (20 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined extracts were dried (MgSO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 40×160 mm, 0-40% EtOAc in hexanes gradient) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-prop-2-yn-1-yl-1,3-oxazolidin-2-one. Rf=0.31 (20% EtOAc/hexanes). LCMS calc.=352.1; found=352.1 (M+1)+. 1H NMR (600 MHz, CDCl3): δ 7.88 (s, 1H); 7.76 (s, 2H); 5-74 (d, J=8.2 Hz, 1H); 4.454-39 (m, 2H); 3.81 (dd, J=2.5, 17.8 Hz, 1H); 2.33 (t, J=2.5 Hz, 1H); 0.84 (d, J=6.6 Hz, 4H).

reactant | Sodium hydride | 4.79 mmol, 192 mg | [H-].[Na+]
reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 3.19 mmol, 1.00 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](NC(O1)=O)C)(F)F | C12H9F6NO2
reactant | propargyl bromide | 4.17 mmol, 712 μL, 570 mg | C(C#C)Br | C3H3Br
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-prop-2-yn-1-yl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC#C)C)(F)F | C15H11F6NO2
